US07018988B2
(2S,4EZ)-4-[(allyloxy)imino]-N-(9-ethyl-9H-carbazol-3-yl)-1-(4-phenoxybenzoyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-4-[(allyloxy)-imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, 4-phenoxybenzoyl chloride, and 9-ethyl-9H-carbazol-3-amine the title compound was obtained in 63% purity by LC/MS. MS(ESI+): m/z=573.4.

reactant | (2S,4EZ)-4-[(allyloxy)-imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C=C)ON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C13H20N2O5
reactant | 4-phenoxybenzoyl chloride | O(C1=CC=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C13H9ClO2
reactant | 9-ethyl-9H-carbazol-3-amine | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)N | C14H14N2
product | (2S,4EZ)-4-[(allyloxy)imino]-N-(9-ethyl-9H-carbazol-3-yl)-1-(4-phenoxybenzoyl)-2-pyrrolidinecarboxamide | C(C=C)ON=C1C[C@H](N(C1)C(C1=CC=C(C=C1)OC1=CC=CC=C1)=O)C(=O)NC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C35H32N4O4
